US04005219
b. 4-Nitro tricyclo [5,2,1,02,6 ] decane-3,5-dione
To a stirred suspension of tricyclo [5,2,1,02,6 ] decane-3,5-dione (0.82g; 0.05 mole) in dry ether (8ml.) was added fuming nitric acid (1ml.) at -20° C. After stirring for 1hr. at 20° C the solid was filtered, washed with cold, dry ether and recrystallised from methanol, m.p. 167° C.

reactant | tricyclo [5,2,1,02,6 ] decane-3,5-dione | 0.05 mole, 0.82g | C12C3C(CC(C3C(CC1)C2)=O)=O | C10H12O2
reactant | nitric acid | 1ml | [N+](=O)(O)[O-] | HNO3
solvent | ether | 8ml | CCOCC | C4H10O
product | 4-Nitro tricyclo [5,2,1,02,6 ] decane-3,5-dione | [N+](=O)([O-])C1C(C2C3CCC(C2C1=O)C3)=O | C10H11NO4
